US07521062B2
Sodium 4-(1-BOC-piperazin-4-yl)phenoxide (1 equivalent) and methyl 4-bromomethylbenzoate (1 equivalent) were combined in dry acetone and heated to reflux at 60° C. for 18 hours. The slurry was filtered and the filtrate was then concentrated to provide the crude methyl 4-[4-(1-BOC-piperazin-4-yl)phenoxymethyl]benzoate, which was used without purification.

reactant | Sodium 4-(1-BOC-piperazin-4-yl)phenoxide | 1 equivalent | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=CC=C([O-])C=C1.[Na+]
reactant | methyl 4-bromomethylbenzoate | 1 equivalent | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-[4-(1-BOC-piperazin-4-yl)phenoxymethyl]benzoate | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=CC=C(OCC2=CC=C(C(=O)OC)C=C2)C=C1 | C24H30N2O5
